US07897607B2
2-Amino-5-iodo-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one
To a solution of 2-amino-5-iodo-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one (15.4 g, 53.1 mmol) in N,N-dimethylformamide (150 ml) was added sodium hydride (66% dispersion in oil, 1.93 g, 53.1 mmol) and iodomethane (3.31 ml, 53.1 mmol) at 0° C., and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was diluted with water and extracted with ethyl acetate (×2) and ethyl acetate-tetrahydrofuran (×2). The combined organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with a 50-100% hexane/ethyl acetate gradient mixture, and the desired fractions were concentrated in vacuo. The residual crystals were washed with diethyl ether to give 12.3 g (76%) of the title compound.

reactant | 2-amino-5-iodo-7-methyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 53.1 mmol, 15.4 g | NC=1NC(C2=C(N1)N(C=C2I)C)=O | C7H7IN4O
reactant | sodium hydride | 53.1 mmol, 1.93 g | [H-].[Na+]
reactant | iodomethane | 53.1 mmol, 3.31 ml | IC | CH3I
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-Amino-5-iodo-3,7-dimethyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | 12.3 g, 76% | NC=1N(C(C2=C(N1)N(C=C2I)C)=O)C | C8H9IN4O
